US05677455
In 5 mL of isopropanol (water content: 10,000 ppm) were dissolved 140 mg (1.3 mmol.) of nicotinaldehyde (pyridin-3-aldehyde) and 500 mg (1.3 mmol.) of methyl (R)-3-[(tert-butyldimethylsilyl)oxy]-6-(dimethoxyphosphinyl)-5-oxohexanoate (optical purity: 99% ee) to give an alcoholic solution. To the alcoholic solution was added 181 mg (1.3 mmol) of potassium carbonate, and the mixture was stirred for 3 hours at room temperature (22° C.). To the resulting reaction mixture was added 20 mL of ethyl acetate, and the mixture was stirred and washed with 10 mL of water. The washing was repeated twice. The organic phase was separated, dried over anhydrous magnesium sulfate, and filtered to give a filtrate. The filtrate was concentrated under reduced pressure, and the residue was subjected to silica gel column chromatography (eluent:hexane/ethyl acetate=1/1, volume ratio) to give 469 mg (yield: 99%) of methyl (3R,6E)-3-[(tert-butyldimethylsilyl)oxy]-5-oxo-7-(pyridin-3-yl)-6-heptenoate.

reactant | nicotinaldehyde | 1.3 mmol, 140 mg | C(C1=CN=CC=C1)=O | C6H5NO
reactant | methyl (R)-3-[(tert-butyldimethylsilyl)oxy]-6-(dimethoxyphosphinyl)-5-oxohexanoate | 1.3 mmol, 500 mg | [Si](C)(C)(C(C)(C)C)O[C@@H](CC(=O)OC)CC(CP(=O)(OC)OC)=O | C15H31O7PSi
reactant | potassium carbonate | 1.3 mmol, 181 mg | C([O-])([O-])=O.[K+].[K+]
reactant | ethyl acetate | 20 mL | C(C)(=O)OCC | C4H8O2
solvent | isopropanol | 5 mL | C(C)(C)O | C3H8O
product | methyl (3R,6E)-3-[(tert-butyldimethylsilyl)oxy]-5-oxo-7-(pyridin-3-yl)-6-heptenoate | 469 mg, yield: 99% | [Si](C)(C)(C(C)(C)C)O[C@@H](CC(=O)OC)CC(\C=C\C=1C=NC=CC1)=O | C19H29NO4Si
